US06525064B1
N′-[4-(4-amino-2-ethoxymethyl-7-methyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]-N,N-dimethylsulfamide
Using the method of Examples 115-135, dimethylsulfamoyl chloride was reacted 4-aminobutyl)-2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-4-amine to the desired product. The observed accurate mass was 385.2029.

reactant | dimethylsulfamoyl chloride | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | 2-(ethoxymethyl)-7-methyl-1H-imidazo[4,5-c]pyridin-4-amine | C(C)OCC=1NC2=C(C(=NC=C2C)N)N1 | C10H14N4O
product | N′-[4-(4-amino-2-ethoxymethyl-7-methyl-1H-imidazo[4,5-c]pyridin-1-yl)butyl]-N,N-dimethylsulfamide | NC1=NC=C(C2=C1N=C(N2CCCCNS(=O)(=O)N(C)C)COCC)C | C16H28N6O3S
